US07737166B2
2-Amino-4-fluoro-3-methoxy-6-methylbenzoic acid (I-29)
With cooling with ice, a solution of 30% aqueous hydrogen peroxide (6.3 ml, 61.5 mmol) diluted with water (8.2 ml) was added to a dioxane (50 ml) solution of 6-fluoro-7-methoxy-4-methyl-1H-indole-2,3-dione (I-28) (2.57 g), at the same temperature, a water (230 ml) solution of sodium hydroxide (6.15 g, 153.8 mmol) was dropwise added, taking 1 hour, followed by stirring for 4 hours with gradually heating up to room temperature. The reaction liquid was washed twice with chloroform, acetic acid was added to the aqueous layer followed by controlling at pH of 3 to 4 and extraction three times with ethyl acetate, the organic layer was washed twice with saturated brine, then dried over anhydrous magnesium sulfate. After filtration and concentration under reduced pressure, the resulting residue was subjected to column chromatography, and the eluate with chloroform alone was concentrated under reduced pressure to obtain the entitled compound (1.54 g, 28% from I-30) as a yellow solid.

reactant | hydrogen peroxide | 61.5 mmol, 6.3 ml | OO | H2O2
reactant | dioxane | 50 ml | O1CCOCC1 | C4H8O2
reactant | 6-fluoro-7-methoxy-4-methyl-1H-indole-2,3-dione | 2.57 g | FC1=CC(=C2C(C(NC2=C1OC)=O)=O)C | C10H8FNO3
reactant | sodium hydroxide | 153.8 mmol, 6.15 g | [OH-].[Na+]
solvent | water | 8.2 ml | O | H2O
solvent | water | 230 ml | O | H2O
product | 2-Amino-4-fluoro-3-methoxy-6-methylbenzoic acid | NC1=C(C(=O)O)C(=CC(=C1OC)F)C | C9H10FNO3
